US07807672B2
Preparation of 4-phenylethynyl-piperidine
4-Phenylethynyl-piperidine-1-carboxylic acid tert-butyl ester was treated with TFA for 10 minutes and concentrated, lyophilized to provide the title product.

reactant | 4-Phenylethynyl-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C#CC1=CC=CC=C1 | C18H23NO2
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
product | 4-phenylethynyl-piperidine | C1(=CC=CC=C1)C#CC1CCNCC1 | C13H15N
